US06265434B1
Step D: 1-Benzyl-4-((benzothiazol-2-yl)methyl)piperidine
A mixture of 1.2 g of (1-benzyl-piperidin-4-yl)acetic acid.TFA, (from EXAMPLE 163, Step C) and 433 mg of 2-aminothiophenol was treated with 10 mL of polyphosphoric acid. After stirring at 120° C. for 18 h, the syrup was poured onto ice and H2O, maintaining the temperature of the aqueous mixture below 10° C. The resulting dark brown solution was made basic with ammonium hydroxide. The aqueous mixture was extracted with EtOAc (3×). The combined organic extracts were washed with sat'd NaCl and dried over MgSO4. Concentration afforded 962 mg of the title compound as a oil.

reactant | (1-benzyl-piperidin-4-yl)acetic acid | 1.2 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(=O)O | C14H19NO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-aminothiophenol | 433 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | H2O | O | H2O
product | 1-Benzyl-4-((benzothiazol-2-yl)methyl)piperidine | 962 mg | C(C1=CC=CC=C1)N1CCC(CC1)CC=1SC2=C(N1)C=CC=C2 | C20H22N2S
